US08859573B2
Pyridin-3-yl-acetic acid ethyl ester
To a solution of 3-pyridylacetic acid hydrochloride (40 g, 230.41 mmol) in ethanol (90 mL) was added sulfuric acid (73 g, 744.3 mmole, 98%) under N2. The reaction mixture was refluxed for 4 h, then cooled to rt. Ammonium hydroxide (250 mL, 25%) was added and extracted with DCM (500 mL) twice, dried over sodium sulfate, concentrated to afford the title product (33 g),

reactant | 3-pyridylacetic acid hydrochloride | 230.41 mmol, 40 g | Cl.N1=CC(=CC=C1)CC(=O)O
reactant | sulfuric acid | 744.3 mmole, 73 g | S(O)(O)(=O)=O | H2O4S
reactant | Ammonium hydroxide | 250 mL | [OH-].[NH4+]
reactant | ethanol | 90 mL | C(C)O | C2H6O
product | Pyridin-3-yl-acetic acid ethyl ester | 33 g | C(C)OC(CC=1C=NC=CC1)=O | C9H11NO2
